US08957064B2
6-(2-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine
398.6 mg (1.26 mmol) 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)pyridine×2HCl are dissolved in 10.9 mL NMP. After addition of 0.42 mL triethylamine the reaction mixture is stirred for one hour. 400 mg (1.26 mmol) 4-[6-(2-Fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde and 0.13 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 293.9 mg (1.39 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 22 hours. The reaction mixture is treated with saturated NaHCO3 and stirred for 60 minutes. The precipitate is filtered off, washed with water, dried and purified by HPLC yielding 139.1 mg (19.3%) of the title compound.

reactant | 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)pyridine | 1.26 mmol, 398.6 mg | CC1=NC(=CC=C1)C=1NN=C(N1)C1CCNCC1 | C13H17N5
reactant | 4-[6-(2-Fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde | 1.26 mmol, 400 mg | FC1=C(C=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H12FN3O
reactant | NaBH(OAc)3 | 1.39 mmol, 293.9 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 10.9 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.13 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.42 mL | C(C)N(CC)CC | C6H15N
product | 6-(2-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine | 139.1 mg, 19.3% | FC1=C(C=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H29FN8
